US07863291B2
A mixture of dimethyl 5-methoxythiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate (100 mg, 0.349 mmol), (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (80 mg, 0.349 mmol) and cesium carbonate (228 mg, 0.698 mmol) in DMF (1.7 mL) was heated to 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature, poured into water and the solids were collected by filtration to afford (R)—N-(5-methoxythiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (78 mg, 64% yield). 1H NMR (500 MHz, CDCl3) δ ppm 9.12 (br. s., 1 H) 8.63 (s, 1 H) 3.95-4.18 (m, 4 H) 3.71 (d, J=9.77 Hz, 1 H) 3.41 (d, J=15.26 Hz, 1 H) 2.74-3.10 (m, 5 H) 2.11-2.27 (m, 2 H) 1.71-1.86 (m, 1 H) 1.50-1.70 (m, 2 H). MS (LC/MS) R.T.=1.66; [M+H]+=347.0.

reactant | dimethyl 5-methoxythiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate | 0.349 mmol, 100 mg | COC=1N=CC2=C(N1)SC(=N2)N=C(SC)SC | C9H10N4OS3
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.349 mmol, 80 mg | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | cesium carbonate | 0.698 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-methoxythiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 78 mg, 64% yield | COC=1N=CC2=C(N1)SC(=N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C15H18N6O2S
